US07081454B2
(±)-3-(6-Aminomethyl-4-methyl-1H-benzimidazol-2-yl)-4-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-1H-pyridin-2-one:
To a solution of (±)-2-{4-[2-(3-Chloro-phenyl)-2-hydroxyethyl amino]-2-oxo-1,2-dihydro-pyridin-3-yl}-7-methyl-3H-benzimidazole-5-carboxylic acid amide (20 mg, 0.046 mmol) in THF (1 mL) was added borane-tetrahydrofuran complex (1 M solution) (0.45 mL, 0.45 mmol). The reaction mixture was stirred at room temperature for 10 h and quenched with acetic acid (2 drops). After removal of most solvent, the residue was extracted with EtOAc, washed with brine, dried over Na2SO4. After concentration, the crude product was purified by prep. HPLC to yield the title compound (11.5 mg, 60%). 1H NMR (400 MHz, CD3OD) δ 7.53 (1H, s), 7.50 (1H, s), 7.39 (1H, d, J=7.5 Hz), 7.24–7.32 (3H, m), 7.13 (1H, s), 6.26 (1H, d, J=7.5 Hz), 4.99 (1H, dd, J=4.8, 6.8 Hz), 4.19 (2H, s), 3.72 (1H, dd, J=4.8, 13.6 Hz), 3.64 (1H, dd, J=6.8, 13.6 Hz), 2.62 (3H, s). LCMS (M+H)+ m/z 424 (t=2.10 min.).

reactant | (±)-2-{4-[2-(3-Chloro-phenyl)-2-hydroxyethyl amino]-2-oxo-1,2-dihydro-pyridin-3-yl}-7-methyl-3H-benzimidazole-5-carboxylic acid amide | 0.046 mmol, 20 mg | ClC=1C=C(C=CC1)C(CNC1=C(C(NC=C1)=O)C=1NC2=C(N1)C(=CC(=C2)C(=O)N)C)O | C22H20ClN5O3
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | (±)-3-(6-Aminomethyl-4-methyl-1H-benzimidazol-2-yl)-4-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-1H-pyridin-2-one | 11.5 mg, 60% | NCC=1C=C(C2=C(NC(=N2)C=2C(NC=CC2NCC(O)C2=CC(=CC=C2)Cl)=O)C1)C | C22H22ClN5O2
